US04418079
To a solution of ethyl magnesium bromide in anhydrous ether, prepared from magnesium (584 mg) in ether (25 ml) and ethyl bromide (3.00 g) in ether (5 ml) in a conventional manner, was added a solution of N,N-diethyl propargylamine (2.70 g) in anhydrous tetrahydrofuran (8 ml) with stirring at room temperature, and the resulting mixture was stirred under reflux for 30 minutes. To the resulting solution was added dropwise a solution of benzaldehyde (2.54 g) in anhydrous tetrahydrofuran (7 ml) at a temperature below 10° C., and the mixture was stirred at room temperature for 2 hours. The cooled reaction mixture was diluted with ethyl acetate (50 ml), and water was added thereto in order to decompose metal complexes. The reaction mixture was dried over sodium sulfate and filtered. The filtrate was evaporated and chromatographed to afford N-(4-phenyl-4-hydroxy-2-butynyl)-N,N-diethylamine, b.p., 134°-137° C./0.12 mmHg. M.P., 52°-53.5° C.

reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | magnesium | 584 mg | [Mg] | Mg
reactant | ethyl bromide | 3.00 g | C(C)Br | C2H5Br
reactant | N,N-diethyl propargylamine | 2.70 g | C(C)N(CC)CC#C | C7H13N
reactant | benzaldehyde | 2.54 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ether | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-(4-phenyl-4-hydroxy-2-butynyl)-N,N-diethylamine | C1(=CC=CC=C1)C(C#CCN(CC)CC)O | C14H19NO
